US06727247B2
4-Benzyl-4-hydroxymethyl-piperidine
1,4-Dibenzyl-4-hydroxymethyl-piperidine (1.0 g, 3.4 mmol) in dichloromethane (20 ml) are treated with 1-chloroethyl-chloroformate (0.48 ml, 4.3 mmol, dissolved in 1.5 ml dichloromethane) and the resulting solution is stirred at 0° C. for 30 min. The solvent is removed in vacuo and the resulting residue refluxed in methanol (20 ml) for 40 min. After removel of the volatile components in vacuo, the title compound is isolated by flash chromatography (silca, eluent dichloromethane/methanol/triethylamine (9:1:0.1, then 4:1:0.1 followed by 3:1:0.1)) as a brown resin in 40% yield. MS 206(M+H+).

reactant | 1,4-Dibenzyl-4-hydroxymethyl-piperidine | 3.4 mmol, 1.0 g | C(C1=CC=CC=C1)N1CCC(CC1)(CO)CC1=CC=CC=C1 | C20H25NO
reactant | 1-chloroethyl-chloroformate | 4.3 mmol, 0.48 ml | ClC(C)OC(=O)Cl | C3H4Cl2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-Benzyl-4-hydroxymethyl-piperidine | 40% yield | C(C1=CC=CC=C1)C1(CCNCC1)CO | C13H19NO
